US06313122B1
Preparation of 2-[[4-(4-Pyridyl)benzoyl]amino]-N-(4-methoxyphenyl)benzamide Hydrochloride
To a stirring suspension of 4-(4-pyridyl)benzoic acid (0.2 g, 1 mmol) in toluene (35 mL) was added thionyl chloride (0.55 mL, 7.5 mmol) and the mixture was heated to reflux. After 1 h the solution was cooled and added to a solution of 2-amino-N-(4-methoxyphenyl)benzamide (0.176 g, 0.73 mmol) in pyridine (2 mL) and toluene (5 mL). After stirring for 48 h, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic phase was separated and washed with sat. NaHCO3, brine and dried (MgSO4), filtered and concentrated to give 103 mg of brown solid which was chromatographed by RPHPLC Method B. Upon standing, a sample of the title compound (14 mg, 4%) crystalized from one of the product containing fractions.

reactant | 4-(4-pyridyl)benzoic acid | 1 mmol, 0.2 g | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | thionyl chloride | 7.5 mmol, 0.55 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-N-(4-methoxyphenyl)benzamide | 0.73 mmol, 0.176 g | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C14H14N2O2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[[4-(4-Pyridyl)benzoyl]amino]-N-(4-methoxyphenyl)benzamide Hydrochloride | 103 mg | Cl.N1=CC=C(C=C1)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2)C=C1 | InChI=1S/C26H21N3O3.ClH/c1-32-22-12-10-21(11-13-22)28-26(31)23-4-2-3-5-24(23)29-25(30)20-8-6-18(7-9-20)19-14-16-27-17-15-19;/h2-17H,1H3,(H,28,31)(H,29,30);1H
